US05883105
Step D: 1-(2-(Thien-2-yl) pyrid-5-ylmethyl)-5-(4-cyanobenzyl)imidazole
To a solution of 2-(thien-2-yl)-5-hydroxymethylpyridine (255 mg, 1.33 mmol) and diisopropylethylamine (0.464 mL, 2.66 mmol) in dichloromethane (7 mL) at -78° C. is added trifluoromethanesulfonic anhydride (0.224 mL, 1.33 mmol) and the mixture stirred at -78° C. for 1 hour. To this mixture is added a solution of 1-trityl-4-(4-cyanobenzyl)-imidazole (566 mg, 1.33 mmol) in dichloromethane (5 mL). The mixture is allowed to warm to ambient temperature and stirred for 2 hours. The solvent is evaporated in vacuo. The residue is dissolved in methanol (50 mL), heated at reflux for 1 hour, and the solvent is evaporated in vacuo. The residue is partitioned between dichloromethane and sat. aq. NaHCO3 solution. The organic layer is dried, (Na2SO4) and the solvent evaporated in vacuo. The residue is chromatographed to afford the title compound.

reactant | 2-(thien-2-yl)-5-hydroxymethylpyridine | 1.33 mmol, 255 mg | S1C(=CC=C1)C1=NC=C(C=C1)CO | C10H9NOS
reactant | diisopropylethylamine | 2.66 mmol, 0.464 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 1.33 mmol, 0.224 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-trityl-4-(4-cyanobenzyl)-imidazole | 1.33 mmol, 566 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-(Thien-2-yl) pyrid-5-ylmethyl)-5-(4-cyanobenzyl)imidazole | S1C(=CC=C1)C1=NC=C(C=C1)CN1C=NC=C1CC1=CC=C(C=C1)C#N | C21H16N4S
